.suckt  two_stage_single_output_op_amp_3_12 ibias in1 in2 out sourceNmos sourcePmos
c1 outFirstStage out 
m1 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m2 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos
m3 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m4 outVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos
m5 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos
m6 outFirstStage outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos
m7 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourceNmos sourceNmos nmos
m8 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c2 out sourceNmos 
m11 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos
m12 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m13 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos
m14 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos
m15 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m16 outInputVoltageBiasXXnXX1 outInvputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos
m17 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m18 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m19 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m20 ibias ibias sourcePmos sourcePmos pmos
.end two_stage_single_output_op_amp_3_12

